US06436923B1
D. 2-(4-Fluorophenyl)-1-{4-[(2-piperidyl)ethoxy]benzoyl}-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline
A solution of 1-[4-(2-bromoethoxy)benzoyl]-2-(4-fluorophenyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline (0.80 g, 1.43 mmol) and piperidine (0.86 g, 10.1 mmol) in dimethylformamide was stirred at room temperature for 3 hours. The reaction was quenched with brine and extracted with ethyl acetate. The organic layer was dried over MgSO4, filtered, concentrated, and purified by chromatography (SiO2, ethyl acetate and 3-5% methanol/ethyl acetate) to provide the title compound (0.594 g, 74% yield): 1H NMR (CDCl3) 8.00 (m, 2H), 7.40 (m, 4H), 6.79-6.92 (m, 10H), 5.87 (s, 1H), 5.02 (s, 2H), 4.15 (t, 2H), 3.72 (m, 1H), 3.48 (m, 1H), 3.07 (m, 1H), 2.79 (t and m, 3H), 2.51 (m, 4H), 1.61 (m, 4H), 1.46 (m, 2H); ES-MS (m/z) 565 [M+H]+.

reactant | 1-[4-(2-bromoethoxy)benzoyl]-2-(4-fluorophenyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline | 1.43 mmol, 0.80 g | BrCCOC1=CC=C(C(=O)C2N(CCC3=CC(=CC=C23)OCC2=CC=CC=C2)C2=CC=C(C=C2)F)C=C1 | C31H27BrFNO3
reactant | piperidine | 10.1 mmol, 0.86 g | N1CCCCC1 | C5H11N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(4-Fluorophenyl)-1-{4-[(2-piperidyl)ethoxy]benzoyl}-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline | 0.594 g, 74% yield | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)C(C1=CC=C(C=C1)OCCC1NCCCC1)=O | C36H37FN2O3
